US07148234B2
STEP 1. 2-[4-(2-Chloro-6-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 2,3-dichloronitrobenzene and 4-aminophenylethyl alcohol.

reactant | 2,3-dichloronitrobenzene | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(2-Chloro-6-nitroanilino)phenyl]ethanol | ClC1=C(NC2=CC=C(C=C2)CCO)C(=CC=C1)[N+](=O)[O-] | C14H13ClN2O3
